US05858995
To a mixture of 6-(3-amino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran (100 mg) and triethylamine (54 mg) in chloroform (3 ml) was added chloroacetyl chloride (36 mg) under ice cooling. The mixture was stirred at ambient temperature for 2 hours, and then dimethyl amine hydrochloride (65 mg) was added to the mixture and additionally the mixture was stirred for 12 hours. The mixture was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with (ethyl acetate: n-hexane=1:1) and the obtained oil was crystallized from ethanol to give 6-[2,6-dichloro-3-(2-dimethylaminoacetylamino)benzoylamino]-1,2,3,4-tetrahydrodibenzofuran (62 mg).

reactant | 6-(3-amino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran | 100 mg | NC=1C(=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC1)Cl)Cl | C19H16Cl2N2O2
reactant | triethylamine | 54 mg | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 36 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | dimethyl amine hydrochloride | 65 mg | Cl.CNC
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[2,6-dichloro-3-(2-dimethylaminoacetylamino)benzoylamino]-1,2,3,4-tetrahydrodibenzofuran | 62 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC=C1NC(CN(C)C)=O)Cl | C23H23Cl2N3O3
